US05219852
2-(2-Trifluoromethyl-thiazol-4-yl)morpholin-5-one
0.3 g (0.0064 mol) of a dispersion of sodium hydride (50-55% in oil) is added in small portions to a stirred solution of 1 g (0.0047 mol) of 2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine in 15 ml of toluene at 30° C. After 1 hour a solution of 0.55 g (0.0045 mol) of ethyl chloroacetate in 2 ml of toluene is added dropwise. After 2 hours first 1 ml of ethanol and then 4 ml of water are added dropwise. The mixture is then acidified with hydrochloric acid and extracted several times with methylene chloride, and the extract is dried over sodium sulphate. The resulting product is purified on a silica gel column using ethyl acetate/methanol=1/1 as eluant and, after evaporation to dryness, digested with a little ether.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | 0.0047 mol, 1 g | OC(CN)C=1N=C(SC1)C(F)(F)F | C6H7F3N2OS
reactant | ethyl chloroacetate | 0.0045 mol, 0.55 g | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(2-Trifluoromethyl-thiazol-4-yl)morpholin-5-one | FC(C=1SC=C(N1)C1CNC(CO1)=O)(F)F | C8H7F3N2O2S
